US05783522
3-Chloro-2-(4-cyano-3-nitrophenyl)-5-trifluoromethylpyridine (Table 3, Example I.401)
5.0 g of 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine and 1.5 g of potassium cyanide in 50 ml of dimethylformamide were heated at 50° C. for 4 hours and then stirred at 23° C. for 20 hours. The mixture was then poured into 200 ml of water. The aqueous phase was extracted three times with 100 ml of tertbutyl methyl ether each time. The combined organic phases were washed twice with 50 ml of water each time, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate=9:1). Yield: 2.7 g (53%) of a yellow oil which slowly crystallized.

reactant | 3-chloro-2-(4-fluoro-3-nitrophenyl)-5-trifluoromethylpyridine | 5.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C12H5ClF4N2O2
reactant | potassium cyanide | 1.5 g | [C-]#N.[K+]
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-(4-cyano-3-nitrophenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C#N)[N+](=O)[O-] | C13H5ClF3N3O2
